US08563565B2
(5) Synthesis of (1,4-dioxepan-6-yl)hydrazine hydrochloride
A 4 M hydrogen chloride-1,4-dioxane solution (3 mL) was added to a solution of t-butyl 1-(1,4-dioxepan-6-yl)hydrazinecarboxylate (392 mg) in dioxane (3 mL). The reaction mixture was stirred at room temperature overnight and further stirred at 50° C. for 1 hour. The reaction mixture was concentrated under reduced pressure to give the title compound (341 mg).

reactant | hydrogen chloride-1,4-dioxane | 4 M, 3 mL | O1CCOCC1.Cl
reactant | t-butyl 1-(1,4-dioxepan-6-yl)hydrazinecarboxylate | 392 mg | O1CCOCC(C1)N(N)C(=O)OC(C)(C)C | C10H20N2O4
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (1,4-dioxepan-6-yl)hydrazine hydrochloride | 341 mg | Cl.O1CCOCC(C1)NN | InChI=1S/C5H12N2O2.ClH/c6-7-5-3-8-1-2-9-4-5;/h5,7H,1-4,6H2;1H
